US08486984B2
13.2 N-(6,8-Dichloro-2-propyl-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindol-7-yl)-4-isopropyl-benzenesulfonamide, hydrochloride
6,8-Dichloro-2-propyl-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindol-7-yl-amine (100 mg, 0.33 mmol) and polystyrene-bound DMAP (4-(N,N-dimethylamino)pyridine) (loading 1.06 mmol/g, 32 mg) were treated with tetrahydrofuran (10 ml). Subsequently isopropylphenylsulfonyl chloride (73 mg, 0.33 mmol) was added and stirred for 5 hours at 150° C. in the microwave (CEM). Another portion of isopropylphenylsulfonyl chloride and polystyrene-bound DMAP was added and stirring continued for 7 hours at 160° C. in the microwave. The solvent was evaporated under reduced pressure, the residue treated with water (30 ml) and twice extracted with ethyl acetate (2×30 ml). The organic layer was dried over magnesium sulfate, filtered, and the solvent evaporated under reduced pressure to give an oil (470 mg). The crude product was purified via HPLC chromatography. Fractions containing the product were combined and the solvent evaporated. The residue was converted into the hydrochloride salt (4 mg, 2%).

reactant | 6,8-Dichloro-2-propyl-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindol-7-yl-amine | 0.33 mmol, 100 mg | ClC1=C(C(=CC=2C3CN(CC3CCC21)CCC)Cl)N | C15H20Cl2N2
reactant | isopropylphenylsulfonyl chloride | 0.33 mmol, 73 mg | C(C)(C)C1=C(C=CC=C1)S(=O)(=O)Cl | C9H11ClO2S
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-(6,8-Dichloro-2-propyl-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindol-7-yl)-4-isopropyl-benzenesulfonamide, hydrochloride | 470 mg | Cl.ClC1=C(C(=CC=2C3CN(CC3CCC21)CCC)Cl)NS(=O)(=O)C2=CC=C(C=C2)C(C)C | InChI=1S/C24H30Cl2N2O2S.ClH/c1-4-11-28-13-17-7-10-19-20(21(17)14-28)12-22(25)24(23(19)26)27-31(29,30)18-8-5-16(6-9-18)15(2)3;/h5-6,8-9,12,15,17,21,27H,4,7,10-11,13-14H2,1-3H3;1H
